US04824848
3-Methylamino-7-(4-pyridylmethyl)-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
A solution of 6-hydrazino-1-(4-pyridylmethyl)-3-propyluracil (1.5 g, 5.7 mM) and methyl isothiocyanate (1.55 ml, 23 mM) in DMF (15 ml) was heated at 90° C. for 14 hours and then at 110° C. for 14 hours. To the reaction solution was added 50% methanol (10 ml) and the mixture was cooled to give crystals. Recrystallization from DMF/ethanol/water afforded colorless needles (1.02 g, 57%), m.p. >300° C.

reactant | 6-hydrazino-1-(4-pyridylmethyl)-3-propyluracil | 5.7 mM, 1.5 g | N(N)C1=CC(N(C(N1CC1=CC=NC=C1)=O)CCC)=O | C13H17N5O2
reactant | methyl isothiocyanate | 23 mM, 1.55 ml | CN=C=S | C2H3NS
reactant | methanol | 10 ml | CO | CH4O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-Methylamino-7-(4-pyridylmethyl)-5-propylpyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | CNC1=NNC=2N(C(N(C(C21)=O)CCC)=O)CC2=CC=NC=C2 | C15H18N6O2
